US07745452B2
To a solution of N-[4-chloro-2-(4-bromobenzoyl)phenyl]-1H-imidazole-1-carboxamide (4.0 g, 9.9 mmol) in THF (20 mL) was added 2,2,2-trifluoroethylamine (1.1 g, 10.9 mmol). The reaction was heated to 50° C. After 19 h at 50° C., the reaction was cooled to ambient temperature and concentrated in vacuo. The light yellow foam was partitioned between n-butyl chloride (15 mL) and aqueous 10% citric acid (15 mL) with vigorous stirring. The resulting precipitate was collected by vacuum filtration to give 6-chloro-4-(4-bromophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one as a white solid. 1H NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H); 7.50 (br d, 2H, J=8.79 Hz); 7.34 (br d, 2H, J=8.79 Hz); 7.22 (m, 2H); 6.97 (dd, J=1.46 and 7.57 Hz, 1H); 4.35 (dq, 1H, J=8.78 and 16 Hz); 3.53 (dq, 1H, J=8.55 and 17 Hz); 3.22 (s, 1H). MS (Electrospray): m/z M+Na, Br=79, 457.0

reactant | N-[4-chloro-2-(4-bromobenzoyl)phenyl]-1H-imidazole-1-carboxamide | 9.9 mmol, 4.0 g | ClC1=CC(=C(C=C1)NC(=O)N1C=NC=C1)C(C1=CC=C(C=C1)Br)=O | C17H11BrClN3O2
reactant | 2,2,2-trifluoroethylamine | 10.9 mmol, 1.1 g | FC(CN)(F)F | C2H4F3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-chloro-4-(4-bromophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(O)C1=CC=C(C=C1)Br | C16H11BrClF3N2O2
